US03971828
33g (0.20 mol) of DL-phenylalanine was neutralized with 100 ml of 2N-NaOH solution and to the resulting solution were simultaneously added dropwise 34.2g (0.20 mol) of 2-bromo-propionylchloride and 110 ml of 2N-NaOH solution over about one hour while stirring and ice-cooling. During the reaction, the reaction mixture was maintained in a slightly alkaline condition. After completion of the addition, the ice-bath was removed and the mixture was stirred at room temperature for a further 2 hours. The filtrate which had been prepared by neutralizing 33.7g (0.24 mol) of thiobenzoic acid with 122 ml of 2N--KOH solution and filtering the thus obtained solution was added to the reaction mixture. The mixture was stirred at room temperature overnight and then acidified with hydrochloric acid while ice-cooling to form oil. The oil was extracted with ethyl acetate and the extract was washed with water, dried over anhydrous sodium sulfate, and then allowed to be placed under reduced pressure to remove the ethyl acetate. During removal of the ethyl acetate, crystals started to precipitate. After completion of the evaportion, benzene was added to these crystals and they were recovered by filtration and washed with benzene to give 25.0g of N-(2-benzoylmercaptopropionyl)phenylalanine. (m.p. 173° - 175°C)

reactant | DL-phenylalanine | NC(CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | NaOH | [OH-].[Na+]
reactant | 2-bromo-propionylchloride | 0.20 mol, 34.2g | BrC(C(=O)Cl)C | C3H4BrClO
reactant | thiobenzoic acid | 0.24 mol, 33.7g | C(C1=CC=CC=C1)(=S)O | C7H6OS
product | N-(2-benzoylmercaptopropionyl)phenylalanine | 25.0g | C(C1=CC=CC=C1)(=O)SC(C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C | C19H19NO4S
